US04117128
3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzothiophene
3-(4-Methoxyphenylsulfonyl)-2-phenylbenzothiophene is demethylated with pyridine hydrochloride as described above and the resulting product is reacted with 3-diethylaminopropyl chloride, also as described above, to give the title compound.

reactant | 3-(4-Methoxyphenylsulfonyl)-2-phenylbenzothiophene | COC1=CC=C(C=C1)S(=O)(=O)C1=C(SC2=C1C=CC=C2)C2=CC=CC=C2 | C21H16O3S2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzothiophene | C(C)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(SC2=C1C=CC=C2)C2=CC=CC=C2)CC | C27H29NO3S2
